US07691882B2
3-(3-(4-Cyclohexyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (3 mL) solution of (4-cyclohexyloxy-phenyl)-acetohydroximoyl chloride (150 mg, 0.56 mmol) described in Manufacturing Example 79-1-4 and 3-ethynyl-pyridine-2,6-diamine (47.6 mg, 0.357 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (195 μL, 1.4 mmol). This reaction mixture was stirred for 4 hours at room temperature. This mixture was partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried with anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1˜ethyl acetate) to obtain the title compound (83 mg, 41%).

reactant | (4-cyclohexyloxy-phenyl)-acetohydroximoyl chloride | 0.56 mmol, 150 mg | C1(CCCCC1)OC1=CC=C(C=C1)CC(=NO)Cl | C14H18ClNO2
reactant | 3-ethynyl-pyridine-2,6-diamine | 0.357 mmol, 47.6 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.4 mmol, 195 μL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-(3-(4-Cyclohexyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 83 mg, 41% | C1(CCCCC1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C21H24N4O2
